US06245922B1
In an analogous fashion to 2-hydroxyethoxythioxanthone in Example 29, 7-hydroxyflavone (Aldrich) was reacted with ethylene carbonate and triethylamine to obtain 7-hydroxyethoxyflavone (83% yield). This product was dissolved in THF. One equivalent of VDM and several drops of DBU were added. The reaction mixture was stirred overnight.

reactant | 2-hydroxyethoxythioxanthone | OCCOC1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C15H12O3S
reactant | 7-hydroxyflavone | OC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C15H10O3
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-hydroxyethoxyflavone | 83% yield | OCCOC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O | C17H14O4
